US04845121
Catalytic hydrogenation. A solution of ethyl 5-chloro-β-oxo-α,2-bis(phenylmethoxy)benzenepropanoate (0.88 g, 0.002 mol) in 20 ml of EtOAc was hydrogenated over 0.18 g of 10% Pd/C at room temperature and 35 psi for 2 h. After filtration, the solvent was removed under reduced pressure affording a light yellow oil. The oil was treated as previously described, affording 0.293 g (69%) of 6-chloro-3,4-dihydroxy-2H-1-benzopyran-2-one as white solid.

reactant | ethyl 5-chloro-β-oxo-α,2-bis(phenylmethoxy)benzenepropanoate | 0.002 mol, 0.88 g | ClC=1C=CC(=C(C1)C(C(C(=O)OCC)OCC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C25H23ClO5
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.18 g | [Pd] | Pd
product | 6-chloro-3,4-dihydroxy-2H-1-benzopyran-2-one | 0.293 g, 69% | ClC=1C=CC2=C(C(=C(C(O2)=O)O)O)C1 | C9H5ClO4
